US07157488B2
Add 1-bromo-4,5-difluoro-2-nitrobenzene (24 g, 100 mmol) to a solution of sodium methoxide (1.2 eq) in MeOH. After addition, stir the reaction at room temperature for 2.5 hours. Remove the solvent in vacuo and dilute the residue with water and extract with Et2O (2×250 mL). Combine the organic layers, dry over MgSO4, filter, and the remove solvent in vacuo to give 1-bromo-4-fluoro-5-methoxy-2-nitrobenzene as a yellow solid: 1H NMR (300 MHz, CDCl3): 3.99 (s, 3H), 7.26 (m,1H), 7.83 (d, 1H); MS(FD+): m/z 249, 251 (M+); Analysis for C7H5BrFNO3: Calcd.: C, 33.63; H, 2.02; N, 5.60; found: C, 33.79; H, 1.98; N, 5.62.

reactant | 1-bromo-4,5-difluoro-2-nitrobenzene | 100 mmol, 24 g | BrC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2BrF2NO2
reactant | sodium methoxide | 1.2 eq | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | 1-bromo-4-fluoro-5-methoxy-2-nitrobenzene | BrC1=C(C=C(C(=C1)OC)F)[N+](=O)[O-] | C7H5BrFNO3
